US05688808
To a solution of 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-3,3-dimethyl-4-quinolinone (128 mg, 0.47 mmol) in methanol (2 mL) at 0° C. was added portionwise sodium borohydride (18 mg, 0.47 mmol) and the reaction mixture was stirred at 0° C. for 3 h. The reaction mixture was then quenched with sat'd NH4Cl (2 mL), extracted with ethyl acetate (2×5 mL), dried (Na2SO4) and concentrated. A solution of this crude material in ethyl acetate (3 mL) was hydrogenated under an atmosphere of hydrogen with 10% Pd/C (20 mg) and a trace of cone. H2SO4 at rt for 16 h. Filtration over Celite™ afforded 100 mg (84%) of 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-3,3-dimethylquinoline. Data for 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-3,3-dimethylquinoline: 1H NMR (400 MHz, CDCl3) 7.68 (d, J=8.3, 1H), 7.12 (ddd, J=8.8, 8.8, 1.5, 1H), 7.02 (d, J=7.0, 1H), 6.97 (ddd, J=7.4, 7.4, 1.0, 1H), 3.46 (s, 2H), 2.58 (s, 2H), 1.51 (s, 9H), 1.01 (6H).

reactant | 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-3,3-dimethyl-4-quinolinone | 0.47 mmol, 128 mg | C(C)(C)(C)OC(=O)N1CC(C(C2=CC=CC=C12)=O)(C)C | C16H21NO3
reactant | sodium borohydride | 0.47 mmol, 18 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-3,3-dimethylquinoline | 100 mg, 84% | C(C)(C)(C)OC(=O)N1CC(CC2=CC=CC=C12)(C)C | C16H23NO2
